US06410732B2
A solution of 20.02 g of 4-bromophenol (0.116 mol) in 100 mL of dry THF was treated with 15.0 mL of pivaloyl chloride (0.126 mol), followed by 35.5 mL of triethylamine (0.255 mol). A large amount of white solid precipitated so 50 mL of additional THF was added to the mixture to afford a free-flowing slurry. The reaction mixture was filtered and the precipitate was washed with 200 mL THF and then discarded. The filtrate was concentrated in vacuo to a liquid which solidified when dried under reduced pressure to yield 30.5 g (100%) of 4-bromophenyl pivalate.

reactant | 4-bromophenol | 0.116 mol, 20.02 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | pivaloyl chloride | 0.126 mol, 15.0 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 0.255 mol, 35.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-bromophenyl pivalate | 30.5 g, 100% | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)Br | C11H13BrO2
